US05889012
4-[cis-4-(1-methylcyclopropyl)cyclohexylamino]-5-chloro-6-ethylpyrimidine
1.8 g (13.0 mmol) of K2CO3 were placed in 10 ml of dimethylformamide, 1.3 g (8.5 mmol) of cis-4-(1-methylcyclopropyl)cyclohexylamine and 1.5 g (8.5 mmol) of 4,5-dichloro-6-ethylpyrimidine were added, and the mixture was stirred at 80° C. for 4 hours. For working up, the cooled reaction solution was taken up in water. Extraction was carried out with ether, and the combined organic phases were washed with water, dried and concentrated. For purification, the mixture was chromatographed on silica gel with petroleum ether/ethyl acetate 3:1. 1.8 g (71.1% of theory) were obtained of a colorless oil.

reactant | K2CO3 | 13.0 mmol, 1.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cis-4-(1-methylcyclopropyl)cyclohexylamine | 8.5 mmol, 1.3 g | CC1(CC1)[C@H]1CC[C@H](CC1)N | C10H19N
reactant | 4,5-dichloro-6-ethylpyrimidine | 8.5 mmol, 1.5 g | ClC1=NC=NC(=C1Cl)CC | C6H6Cl2N2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[cis-4-(1-methylcyclopropyl)cyclohexylamino]-5-chloro-6-ethylpyrimidine | CC1(CC1)[C@H]1CC[C@H](CC1)NC1=NC=NC(=C1Cl)CC | C16H24ClN3
